US05635527
Tetrahydrofuran (280 ml) was added to (methoxymethyl)triphenylphosphonium chloride (27.8 g, 81.1 mmol) and a solution (50.0 ml, 80.0 mmol) of 1.6M n-butyllithium in n-hexane was dropwise added at -40° C. over 30 minutes, which was followed by stirring for one hour. Then, a solution of 4-(benzyloxycarbonylamino) cyclohexanone (20.0 g, 81.0 mmol) dissolved in tetrahydrofuran (200 ml) was dropwise added over 30 minutes. The mixture was warmed to room temperature and stirred for 3.5 hours. The reaction mixture was poured into a saturated aqueous ammonium chloride solution and the organic layer was separated. The aqueous layer was extracted with ethyl acetate and the extract and the organic layer were combined. The mixture was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to give 7.02 g of 4-(benzyloxycarbonylamino)cyclohexylidenemethyl methyl ether as a colorless solid (32%).

reactant | (methoxymethyl)triphenylphosphonium chloride | 81.1 mmol, 27.8 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 80.0 mmol, 1.6M, 50.0 ml | C(CCC)[Li]
reactant | 4-(benzyloxycarbonylamino) cyclohexanone | 81.0 mmol, 20.0 g | C(C1=CC=CC=C1)OC(=O)NC1CCC(CC1)=O | C14H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
product | 4-(benzyloxycarbonylamino)cyclohexylidenemethyl methyl ether | 7.02 g, 32% | COC=C1CCC(CC1)NC(=O)OCC1=CC=CC=C1 | C16H21NO3
